US09376422B2
Synthesis of Compound 23: 5-chloro-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-3-(methyl(1-methylpiperidin-4-yl)amino)benzamide
5-Chloro-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-3-(methyl(piperidin-4-yl)amino)benzamide (0.08 g, 0.192 mmol) was dissolved in methanol (5 mL) and cooled to 0° C., formalin (0.028 g, 0.965 mmol) was added. Resulting reaction mass was stirred at same temperature for 30 minutes. Sodium cyanoborohydride (0.023 g, 0.38 mmol) was added to above reaction mass and stirred at room temperature for 4 h. After completion, solvent were removed under reduced pressure and water was added to the residue, extraction was carried out using DCM. Combined organic layers were dried, concentrated and purified by column chromatography giving the desired compound (0.02 g, 24%): LCMS: 431.25 (M+1)+; HPLC: 98.80% (@ 254 nm) (Rt; 4.757; Method: Column: YMC ODS-A 150 mm×4.6 mm×5μ; Mobile Phase: A; 0.05% TFA in water/B; 0.05% TFA in acetonitrile; Inj. Vol: 10 μL, Col. Temp.: 30° C.; Flow rate: 1.4 mL/min.; Gradient: 5% B to 95% B in 8 min, Hold for 1.5 min, 9.51-12 min 5% B); 1H NMR (DMSO-d6, 400 MHz) δ 11.46 (s, 1H), 8.20 (t, 1H), 7.15 (d, 1H, J=1.2 Hz), 6.94 (d, 1H, J=2 Hz), 5.85 (s, 1H), 4.25 (d, 2H, J=4.8 Hz), 3.05 (bs, 2H), 2.88 (bs, 1H), 2.55 (s, 3H), 2.44 (bs, 2H), 2.18 (s, 3H), 2.14 (s, 3H), 2.10 (s, 3H), 1.68 (bs, 4H).

reactant | 5-Chloro-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-3-(methyl(piperidin-4-yl)amino)benzamide | 0.192 mmol, 0.08 g | ClC=1C=C(C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C1)C)N(C1CCNCC1)C | C22H29ClN4O2
reactant | formalin | 0.965 mmol, 0.028 g | C=O | CH2O
reactant | Sodium cyanoborohydride | 0.38 mmol, 0.023 g | C(#N)[BH3-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 5-chloro-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-3-(methyl(1-methylpiperidin-4-yl)amino)benzamide | 0.02 g, 24% | ClC=1C=C(C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C1)C)N(C1CCN(CC1)C)C | C23H31ClN4O2
